US06583153B2
7-Bromo-6-bromomethyl-1-(2,6-difluorobenzyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid ethylester
A mixture of 7-bromo-1-(2,6-difluorobenzyl)-1,4-dihydro-6-methyl-4-oxoquinoline-3-carboxylic acid ethyl ester (3.5 g, 8 mmol), prepared according to the procedure outlined in PCT application WO97/14682, Reference Example 3, NBS (1.5 g, 8.4 mmol) and 2,2′-azobisisobutyronitrile (AIBN, 100 mg) in DCM (200 mL) was stirred at reflux for 4 h. Additional NBS (750 mg) was added and the mixture was refluxed for 4 h. Column chromatography (hexanes:ethyl acetate=3:7) yielded the product as a white solid.

reactant | 7-bromo-1-(2,6-difluorobenzyl)-1,4-dihydro-6-methyl-4-oxoquinoline-3-carboxylic acid ethyl ester | 8 mmol, 3.5 g | C(C)OC(=O)C1=CN(C2=CC(=C(C=C2C1=O)C)Br)CC1=C(C=CC=C1F)F | C20H16BrF2NO3
reactant | NBS | 8.4 mmol, 1.5 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 2,2′-azobisisobutyronitrile | 100 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | NBS | 750 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 7-Bromo-6-bromomethyl-1-(2,6-difluorobenzyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid ethylester | C(C)OC(=O)C1=CN(C2=CC(=C(C=C2C1=O)CBr)Br)CC1=C(C=CC=C1F)F | C20H15Br2F2NO3
